US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID [2-(4-FLUOROPHENYL)ETHYL]AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid [2-(4-fluorophenyl)ethyl]amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white powder (59.8% yield). 1H NMR (400 MHz, CDCl3) δ 8.05, 7.92, 7.72-7.76, 7.66-7.54, 7.38-7.34, 7.20-7.14, 7.0-6.94, 4.10-4.02, 3.92-3.84, 3.80-3.68, 3.37-3.36, 2.90.

reactant | 6-chloropyridazine-3-carboxylic acid [2-(4-fluorophenyl)ethyl]amide | FC1=CC=C(C=C1)CCNC(=O)C=1N=NC(=CC1)Cl | C13H11ClFN3O
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID [2-(4-FLUOROPHENYL)ETHYL]AMIDE | FC1=CC=C(C=C1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C25H23F4N5O2
